US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,6-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2,6-difluorobenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.48-7.39 (m, 1 H), 7.34-7.28 (m, 1 H), 7.23-7.16 (m, 1 H), 7.11-7.06 (m, 1 H), 6.98-6.87 (m, 3 H), 6.22-6.16 (m, 1 H), 5.62-5.49 (m, 3 H), 4.31-4.24 (m, 2 H), 2.93-2.77 (m, 2 H), 2.73 (s, 3 H), 2.09-2.06 (m, 2 H), 1.00-0.93 (s, 9 H); LC/MS (m/z) ES+=521.36 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2,6-difluorobenzyl bromide | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,6-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=CC=C2F)F)C=2C=C1CCCOC1=CC2 | C30H30F2N2O4
